US08633189B2
2-Ethyl-4-fluorophenyl methyl carbonate (2.4 g, 12.11 mmol) was added dropwise to H2SO4 (7.2 mL) to generate a yellow homogeneous solution. The solution was then cooled to 0° C. and KNO3 (1.469 g, 14.53 mmol) was added portion-wise maintaining the internal temperature below 5° C. The reaction was stirred for 2 h and then poured on ice water. The aqueous layer was extracted with dichloromethane (3×10 mL), dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (10% ethyl acetate/hexane) provided 2-ethyl-4-fluoro-5-nitrophenyl methyl carbonate (1.7 g, 58% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 8.20 (d, J=6.8 Hz, 1H), 7.64 (d, J=12.1 Hz, 2H), 3.88 (s, 3H), 2.62 (q, J=7.5 Hz, 1H), 1.15 (t, J=7.5 Hz, 3H).

reactant | 2-Ethyl-4-fluorophenyl methyl carbonate | 12.11 mmol, 2.4 g | C(OC1=C(C=C(C=C1)F)CC)(OC)=O | C10H11FO3
reactant | H2SO4 | 7.2 mL | OS(=O)(=O)O | H2O4S
reactant | KNO3 | 14.53 mmol, 1.469 g | [N+](=O)([O-])[O-].[K+]
product | 2-ethyl-4-fluoro-5-nitrophenyl methyl carbonate | 1.7 g, 58% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)CC)(OC)=O | C10H10FNO5
